Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Plavix
 
Attending: ___.
 
Chief Complaint:
constipation, abdominal pain
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ yo POD 9 from lap L inguinal hernia repair (Dr ___ who
presents with significant constipation and rectal pressure. He 
is
now s/p disimpaction in the ED, which has improved his pain. He
reports nausea but no vomiting, fevers, chills, SOB, or CP.
Incisions healing well. He denies ever taking the narcotics he
was prescribed, and states that since his disimpaction in the ED
on ___, he has been taking senna, Colace, and milk of mag,
and denies narcotic use. 
 
Past Medical History:
Past Medical History: h/o MI s/p stentx2, HTN, BPH

Past Surgical History: Laparoscopic inguinal hernia (left)
 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
 VS:  98.3 114/64 58 18 97 RA
 GEN: Pleasant male in NAD, calm, cooperative.  
 HEENT: (-)LAD, mucous membranes moist, trachea midline, EOMI  
 CARDIAC: RRR, no murmurs 
 CHEST: no increased work of breathing, (-) cyanosis.  
 ABDOMEN: soft, non-tender, non-distended, port sites with 
steris c/d/I with mild surrounding ecchymosis
 EXTREMITIES: Warm, well perfused, no edema
 NEURO: AA&O x 3
 
Pertinent Results:
___ 09:52AM BLOOD WBC-8.2 RBC-3.20* Hgb-10.3* Hct-30.3* 
MCV-95 MCH-32.2* MCHC-34.0 RDW-13.2 RDWSD-45.3 Plt ___
___ 05:55AM BLOOD WBC-6.5 RBC-3.11* Hgb-9.8* Hct-29.3* 
MCV-94 MCH-31.5 MCHC-33.4 RDW-13.2 RDWSD-45.3 Plt ___
___ 09:52AM BLOOD Glucose-83 UreaN-12 Creat-0.7 Na-129* 
K-5.0 Cl-94* HCO3-28 AnGap-12
___ 05:55AM BLOOD Glucose-80 UreaN-11 Creat-0.6 Na-131* 
K-4.1 Cl-97 HCO3-27 AnGap-11
___ 09:52AM BLOOD Albumin-3.6 Calcium-8.9 Phos-2.9 Mg-2.3
___ 05:55AM BLOOD Calcium-8.6 Phos-3.4 Mg-2.0
 
Brief Hospital Course:
The patient was admitted to the general surgery service after 
re-presenting to the ER with complaint of abdominal pain and 
worsening constipation. He had recently presented 3 days prior 
with similar symptoms as well as urinary retention; he underwent 
foley placement and disimpaction, and he was sent home on a 
stronger bowel regimen. He represented with worsening 
constipation and underwent repeat disimpaction in the ER. He was 
then admitted to the general surgery service for observation 
overnight; he underwent fleets enema and had several bowel 
movements with improvement in his abdominal pain. He underwent a 
void trial with removal of his foley catheter on the evening of 
HD1 and he voided without difficulty thereafter. He tolerated a 
regular diet without nausea/vomiting. He is being discharged 
home on HD2 on an aggressive bowel regimen of 
senna/Colace/miralax/milk of magnesia PRN and will follow up in 
general surgery clinic in 2 weeks. He remained afebrile and 
hemodynamically stable throughout his stay. 
Also of note, the patient's sodium was 129 at time of admission. 
This improved to 131 by time of discharge. He was asymptomatic. 
He was advised to follow up with his PCP in one week for his 
chemistry to be rechecked. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO QHS:PRN anxiety 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Omeprazole 20 mg PO BID 
5. Aspirin 81 mg PO DAILY 
6. Venlafaxine XR 75 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
Do not exceed 3500mg in one day.   
2.  Docusate Sodium 100 mg PO BID 
Hold for loose stools 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*24 Packet Refills:*0 
4.  Senna 17.2 mg PO HS 
Hold for loose stools 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*30 
Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  ClonazePAM 0.5 mg PO QHS:PRN anxiety  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  Omeprazole 20 mg PO BID  
10.  Tamsulosin 0.4 mg PO QHS  
11.  Venlafaxine XR 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
constipation
urinary retention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the general surgery service for 
post-operative constipation. You underwent disimpaction in the 
ER and were also treated with an enema. You had bowel function 
and tolerated a diet with improved abdominal pain. Also, your 
foley catheter was removed and you urinated without difficulty. 
You are being discharged to continue a more aggressive bowel 
regimen at home and will follow up in general surgery clinic as 
previously planned in two weeks.

Please also follow up with your primary care physician in one 
week to have a chemistry rechecked because your sodium was noted 
to be low while here (129 then increased to 131). 

Please follow the discharge instructions below: 

BOWEL REGIMEN: Continue taking senna and Colace daily. You 
should also take a stronger medication, such as miralax or milk 
of magnesia, to prevent constipation. Also make sure to drink a 
lot of water to prevent dehydration which worsens constipation.  


MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently. 
Continue to take your Flomax until seen by your primary care 
physician and instructed otherwise. 
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

PAIN MANAGEMENT:
- Your pain should continue to get better day by day. If you 
find the pain is getting worse instead of better, please contact 
your surgeon.
If you experience any of the following, please contact your 
surgeon:
 
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
If you experience any of the following, please contact your 
surgeon: 
- sharp pain or any severe pain that lasts several hours
- chest pain, pressure, squeezing, or tightness
- cough, shortness of breath, wheezing
- pain that is getting worse over time or pain with fever
- shaking chills, fever of more than 101
- a drastic change in nature or quality of your pain
- nausea and vomiting, inability to tolerate fluids, food, or 
your medications
- if you are getting dehydrated (dry mouth, rapid heart beat, 
feeling dizzy or faint especially while standing)
-any change in your symptoms or any symptoms that concern you

Please call with any questions or concerns. Thank you for 
allowing us to participate in your care. We hope you have a 
quick return to your usual life and activities. 

-- Your ___ Care Team
 
Followup Instructions:
___